US06008229
To a mixture of 2-[(E)-3-(6-aminopyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole (152 mg) and triethylamine (96 mg) in dichloromethane (3 ml) was added 2-methylnicotinoyl chloride hydrochloride (115 mg) under nitrogen in ice water bath and stirred for 1 hour at the same temperature. The reaction solvent was concentrated in vacuo and the residue was dissolved in methanol. To the solution was added 1M sodium hydroxide solution (0.5 ml) and stirred for 30 minutes. The solution was evaporated and partitioned between chloroform and water. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography on silica gel (ethyl acetate) to give 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-[6-[2-methylnicotinamido]pyridin-3-yl]acryloylaminomethyl]pyrrole (124 mg) as an amorphous powder. NMR (DMSO6, δ): 2.57 (3H, s), 4.26 (3H, s), 4.06-4.17 (1H, m), 4.21-4.33 (1H, m), 5.35-5.47 (2H, m), 6.18-6.25 (2H, m), 6.63 (1H, d, J=16 Hz), 6.85-6.90 (1H, m), 7.24 (1H, d, J=8 Hz), 7.29-7.36 (2H, m), 7.36-7.47 (3H, m), 7.53 (1H, d, J=8 Hz), 7.64 (1H, d, J=8 Hz), 7.73 (1H, d, J=8 Hz), 7.88 (1H, d, J=8 Hz), 8.03 (1H, d, J=8 Hz), 8.16-8.31 (3H, m), 8.51-8.57 (2H, m).

reactant | 2-[(E)-3-(6-aminopyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole | 152 mg | NC1=CC=C(C=N1)/C=C/C(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C=CC(=NC12)C)Cl | C30H25Cl2N5O2
reactant | triethylamine | 96 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methylnicotinoyl chloride hydrochloride | 115 mg | Cl.CC1=C(C(=O)Cl)C=CC=N1
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-[6-[2-methylnicotinamido]pyridin-3-yl]acryloylaminomethyl]pyrrole | 124 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C=CC(=NC12)C)Cl)N1C(=CC=C1)CNC(\C=C\C=1C=NC(=CC1)NC(C1=C(N=CC=C1)C)=O)=O | C37H30Cl2N6O3
